US09056865B2
Step 8: N-[1-(3-chloro-3′,5′-dimethyl-2,2′-bipyridin-6-yl)piperidin-4-yl]-2-hydroxyacetamide
To a mixture of 1-(3-chloro-3′,5′-dimethyl-2,2′-bipyridin-6-yl)piperidin-4-amine (hydrochloride salt) (60 mg, 0.13 mmol) and 2-hydroxyacetic acid (14.8 mg, 0.20 mmol) in DMF (1.3 mL) were added (in this order) NMM (105 mg, 1.0 mmol), HOBT (26.3 mg, 0.20 mmol), and EDCI (38.5 mg, 0.20 mmol). The resulting solution was stirred at rt for 3.5 h. Water was added, and the mixture was stirred at rt overnight. Filtered off the solid that had crashed out, washed with water, and dried to get 23 mg (47%) of the title compound as a white solid. m/z (APCI+) for C19H23N4O2Cl 375.10 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.26 (s, 1 H) 7.67 (d, J=9.09 Hz, 1 H) 7.62 (d, J=8.34 Hz, 1H) 7.53 (s, 1 H) 6.93 (d, J=9.35 Hz, 1 H) 5.37 (t, J=5.94 Hz, 1 H) 4.18 (d, J=13.64 Hz, 2H) 3.82-3.94 (m, 1 H) 3.78 (d, J=5.81 Hz, 2 H) 2.91 (t, J=11.49 Hz, 2 H) 2.32 (s, 3 H) 2.08 (s, 3 H) 1.72 (dd, J=12.76, 2.91 Hz, 2 H) 1.41-1.54 (m, 2 H).

reactant | 1-(3-chloro-3′,5′-dimethyl-2,2′-bipyridin-6-yl)piperidin-4-amine | 0.13 mmol, 60 mg | ClC=1C(=NC(=CC1)N1CCC(CC1)N)C1=NC=C(C=C1C)C | C17H21ClN4
reactant | 2-hydroxyacetic acid | 0.20 mmol, 14.8 mg | OCC(=O)O | C2H4O3
reactant | NMM | 1.0 mmol, 105 mg | CN1CCOCC1 | C5H11NO
reactant | HOBT | 0.20 mmol, 26.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.20 mmol, 38.5 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 1.3 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | N-[1-(3-chloro-3′,5′-dimethyl-2,2′-bipyridin-6-yl)piperidin-4-yl]-2-hydroxyacetamide | 23 mg, 47% | ClC=1C(=NC(=CC1)N1CCC(CC1)NC(CO)=O)C1=NC=C(C=C1C)C | C19H23ClN4O2
